US05550121
To a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine (2.07 g, 5.3 mmol) in methanol (10 ml) was added a 5.5N hydrogen chloride--methanol solution (6 ml, 33 mmol). The mixture was stirred at room temperature for 6 h. The reaction solution was concentrated in vacuo. Tetrahydrofuran and ethanol were added to the obtained residue, and the precipitate was collected by filtration and washed with ethanol to obtain (2S,4R)-4-hydroxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine monohydrochloride (737 mg, yield: 62%).

reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine | 5.3 mmol, 2.07 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(NC)=O)=O | C19H36N2O5Si
reactant | hydrogen chloride | 5.5N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 33 mmol, 6 ml | CO | CH4O
product | (2S,4R)-4-hydroxy-2-[2-(N-methylcarbamoyl)-1-oxoethyl]pyrrolidine monohydrochloride | 737 mg, yield: 62% | Cl.O[C@@H]1C[C@H](NC1)C(CC(NC)=O)=O | InChI=1S/C8H14N2O3.ClH/c1-9-8(13)3-7(12)6-2-5(11)4-10-6;/h5-6,10-11H,2-4H2,1H3,(H,9,13);1H/t5-,6+;/m1./s1
